US07291183B2
1c.) 4-tert Butyl-3-methyl-2(3H)-thiazolone hydrazone hydrochloride
From 4-methyl-3-thiosemicarbazide and 1-chloro-3,3-dimethyl-2-butanone.

reactant | 4-methyl-3-thiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | 1-chloro-3,3-dimethyl-2-butanone | ClCC(C(C)(C)C)=O | C6H11ClO
product | 4-tert Butyl-3-methyl-2(3H)-thiazolone hydrazone hydrochloride | Cl.C(C)(C)(C)C=1N(C(SC1)=NN)C | InChI=1S/C8H15N3S.ClH/c1-8(2,3)6-5-12-7(10-9)11(6)4;/h5H,9H2,1-4H3;1H
